US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (2.5 g, 7.3 mmol) and 2-amino-5-chlorobenzamide (3.73 g, 22 mmol), 5-chloro-2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide was isolated as a yellow solid (2.0 g, 57% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3 H), 6.70 (d, J=4.03 Hz, 1 H), 7.47 (d, J=8.23 Hz, 2 H), 7.64 (dd, J=8.87, 2.47 Hz, 1 H), 7.76 (d, J=3.84 Hz, 1 H), 7.88 (d, J=2.38 Hz, 2 H), 7.98 (d, J=8.60 Hz, 2 H), 8.38 (s, 1 H), 8.41 (d, J=8.97 Hz, 1 H), 12.14 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 7.3 mmol, 2.5 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-5-chlorobenzamide | 22 mmol, 3.73 g | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
product | 5-chloro-2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | ClC=1C=CC(=C(C(=O)N)C1)NC=1C2=C(N=C(N1)Cl)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C20H15Cl2N5O3S
